US05061712
34.5 g (0.4 mol) of 3-aminopyrrolidine are initially introduced into 100 ml of toluene, and 34.5 g (0.3 mol) of 75% strength pivalaldehyde (preparation from Riedel-de-Haen) in 100 ml of toluene are added dropwise at 20° C., while cooling in a water bath. The mixture is subsequently stirred at room temperature for 2 hours, the aqueous phase is then separated off in a separating funnel (4.6 ml) and the toluene solution is dried over sodium sulphate for 1 hour. The toluene is separated off on a rotary evaporator and the residue is distilled using a small Vigreux column. 46.2 g of 3-(2,2-dimethylpropylideneamino)-pyrrolidine of boiling point 61° C./10 mbar are obtained with a purity, determined by gas chromatography, of 98%, corresponding to a yield of 74% and a selectivity of 99% (pivalaldehyde).

reactant | 3-aminopyrrolidine | 0.4 mol, 34.5 g | NC1CNCC1 | C4H10N2
reactant | pivalaldehyde | C(C(C)(C)C)=O | C5H10O
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | 3-(2,2-dimethylpropylideneamino)-pyrrolidine | 46.2 g, yield of 74% | CC(C=NC1CNCC1)(C)C | C9H18N2
